US05250217
A solution of 2.26 g of p-toluenesulfonic acid chloride in 5 ml of pyridine was gradually added dropwise to a cooled solution of 2.04 g of 6-pentyloxyheptanol in 8 ml of pyridine for 7 min. below 5° C. After stirring for 5 hours at room temperature, the reaction mixture was injected into 150 ml of cold water and, after being acidified to pH 3 with 6N-hydrochloric acid, was extracted with ethyl acetate. The resultant solution was washed with water and dried with anhydrous magnesium sulfate, followed by distilling-off of the solvent to obtain 2.98 g of (6-pentyloxyheptyl)-p-toluenesulfonate.

reactant | p-toluenesulfonic acid chloride | 2.26 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 6-pentyloxyheptanol | 2.04 g | C(CCCC)OC(CCCCCO)C | C12H26O2
reactant | water | 150 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | (6-pentyloxyheptyl)-p-toluenesulfonate | 2.98 g | C(CCCC)OC(CCCCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H32O4S
